US07776847B2
A mixture of methyl 3-(3-cyanopyridin-2-ylthio)propanoate (1.5 g, 6.8 mmol), sodium hydride (0.36 g, 15 mmol) and tetrahydrofuran (30 ml) was heated at reflux for 5 h. The reaction was quenched by the addition of ethanol (5 ml). The solvents removed under reduced pressure and the residue was treated with water (50 ml). The ph was adjusted to 6 and the mixture was filtered to yield 2-thioxo-1,2-dihydropyridine-3-carbonitrile (0.64 g). An analytically pure sample was prepared by recrystallisation from ethanol, yellow needles, mp 243-246° C. (lit. mp 248-250° C.). 1H NMR (DMSO-d6): 14.30 (br s, exchangeable, 1H), 8.12 (dd, 1H), 7.94 (dd, 1H), 6.86 ppm (dd, 1H). MW=136 confirmed by LC-MS, tr=5.27 min (Method C) MH+=137.

reactant | methyl 3-(3-cyanopyridin-2-ylthio)propanoate | 6.8 mmol, 1.5 g | C(#N)C=1C(=NC=CC1)SCCC(=O)OC | C10H10N2O2S
reactant | sodium hydride | 15 mmol, 0.36 g | [H-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-thioxo-1,2-dihydropyridine-3-carbonitrile | 0.64 g | S=C1NC=CC=C1C#N | C6H4N2S
